Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
___ / cortisone
 
Attending: ___.
 
Chief Complaint:
Depression
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ woman with a history of major
depressive disorder, under treatment at ___ with Dr. ___, who presents to the ED for evaluation of depressive
symptoms and plan for possible admission to ___ 4.

The patient reports having had worsened depressed mood for
roughly the past 3 months. She used to enjoy being around 
people,
was more talkative and friendly, but over the past 3 months has
not been able to enjoy being around friends. She gradually
noticed a worsened appetite, which was so poor that she was
eating "very little" each day, to the degree that she purchased
ensure out of concern for not getting adequate nutrition, and 
had
lost 10 lbs in 3 months. She reports having little energy to 
cook
and while she used to enjoy cooking, no longer was able to enjoy
doing so, and did not have motivation to proceed. 

She had seen Dr. ___ in that setting, after years of not
seeing him prior ___ years, initially established care with
him ___ years ago), at which point she was started on
mirtazipine, started at 7.5mg in ___, and now up to 22.5mg
daily. She states that the mirtazapine had helped her sleep, but
has not yet improved her appetite or mood. 

She denies thoughts of suicidal ideation in this setting,
stating, I don't think about wanting to die, I think about
wanting to get better."

 
Past Medical History:
-HTN
-Glaucoma
-Gerd
-hearing loss, chronic, wears bilateral hearing aids
-Major Depressive Disorder
 
Social History:
___
Family History:
Mother with undiagnosed depression 

 
Physical Exam:
 Gen: 
 HEENT: Sclera anicteric. PERRLA, EOMI, Oropharynx benign. 
Mucous
membranes moist. 
 Neck: Supple. No masses or goiter. Trachea midline.
 Cor: RRR, no murmur
 Chest: CTAB. 
 Abdomen: Soft, NTND 
 Back: No spinous process tenderness. 
 Ext: Warm, no edema, no calf tenderness

Neuro:
-CN II-XII grossly intact
-equal and bilateral strength in all four extremities 
-Gait steady 
2+ reflexes bilaterally, equal 

 Neuropsychiatric Examination:
   *Appearance: ___ year old Caucasian female, appropriately
dressed, well groomed 
   Behavior: calm, pleasant, slight psychomotor retardation. 
Cooperative with interview, appropriate eye contact
   *Mood and Affect: "depressed", restricted 
   *Thought process : linear and goal directed
   *Thought Content : Denies any SI/HI/AVH
   *Judgment and Insight: fair/fair
 
Cognition:
 -Orientation: Full (Name, Place and Time/Date).
-Attention: Names months backwards correctly and Can follow 2
part commands
 -Memory: ___ at 5 minutes. (remembered third with a clue)
 -Fund of knowledge: can state the last 3 presidents (initially
forgot ___ as between Obama and ___
 -Calculations: $1.75 intact
 -Abstraction: Proverb "Don't cry over spilled milk" and" 
rolling
stone gathers no moss": correct 
 -Speech: Normal volume, rate, prosody, rhythm. Pt is
redirectable/interruptible
 -Language: Native ___ speaker, no paraphasic errors

 
Pertinent Results:
___ 09:52AM BLOOD WBC-6.9 RBC-3.79* Hgb-12.0 Hct-37.4 
MCV-99* MCH-31.7 MCHC-32.1 RDW-13.1 RDWSD-47.1* Plt ___
___ 09:52AM BLOOD Glucose-92 UreaN-15 Creat-0.7 Na-138 
K-4.4 Cl-98 HCO3-29 AnGap-15
___ 09:52AM BLOOD TSH-2.3
___ 09:52AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement and remained on that level throughout their admission. 
They were also placed on q15 minute checks status on admission 
and remained on that level of observation throughout while being 
unit restricted.

2. PSYCHIATRIC:
#) Depression
Patient presented with worsening depression consisting of 
neurovegetative symptoms, decreased ADLs, and significant weight 
loss. She was continued on her home psychiatric regimen 
consisting of Lorazepam and Mirtazapine per discussion w/ 
outpatient psychiatrist, Dr. ___. During admission, she was 
seen to be clinically stable with no significant risk of harm to 
herself or others and following discussion with Dr. ___ was 
determined fit for discharge with no significant change to 
medications.  

3. SUBSTANCE USE DISORDERS: N/A

4. MEDICAL
Patient was continued on her home medications for HTN, Glaucoma, 
and GERD with no clear issues related to these conditions.

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit.  

#) COLLATERAL CONTACTS & FAMILY INVOLVEMENT
Psychiatrist: Dr. ___, MD ___

#) INTERVENTIONS
- Medications: Continued home Lorazepam 1mg qhs and Mirtazapine 
22.5mg qhs
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: To be seen by Dr. ___ on ___ 


RISK ASSESSMENT
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
recent weight loss and poor PO intake.  Their static factors 
noted at that time include two prior depressive episodes
(1 mild, 1 severe), age, single status.
   The patient is being discharged with many protective risk 
factors, no acute SI, no intent/plan, no prior suicide 
attempts/SIB, help-seeking behavior, future orientation, 
medication compliance, consistent outpatient follow-up, strong
social supports, stable housing, no chronic substance use, and 
no access to lethal weapons. Overall, based on the totality of 
our assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others. 

Our Prognosis of this patient is, fair.

 
Medications on Admission:
1. amLODIPine 5 mg PO DAILY  
2. Atenolol 12.5 mg PO DAILY  
3. Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
4. LORazepam 1 mg PO QHS  
5. LORazepam 0.5 mg PO DAILY:PRN anxiety  
6. Mirtazapine 22.5 mg PO QHS  
7. Omeprazole 20 mg PO DAILY  
8. Timolol Maleate 0.5% 1 DROP RIGHT EYE BID  

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  Atenolol 12.5 mg PO DAILY  
3.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
4.  LORazepam 1 mg PO QHS  
5.  LORazepam 0.5 mg PO DAILY:PRN anxiety  
6.  Mirtazapine 22.5 mg PO QHS  
7.  Omeprazole 20 mg PO DAILY  
8.  Timolol Maleate 0.5% 1 DROP RIGHT EYE BID  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were hospitalized at ___ for worsening symptoms of 
depression.  

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___